* Library of digital logic
*
* Copyright 1989-1995 by MicroSim Corporation
* Neither this library nor any part may be copied without the express
* written consent of MicroSim Corporation
*
* $Revision:   1.12  $
* $Author:   RPEREZ  $
* $Date:   10 Dec 1996 09:56:32  $
*
*-------------------------------------------------------------------
*
* Contents
* --------
*  This library contains various digital subcircuits.  They are not
*  models of specific parts, but generic functions.
*
*  Digital Pullup resistors
*  Digital Pulldown resistors
*  Delay line
*  Digital Capacitive Load
*

*******************************************************************************
* Pullup Resistors
*******************************************************************************

*$
*-------------------------------------------------
* Pullup Resistor: General, parameterized value
*
* MicroSim 
* muw   10/29/90        Created

.subckt PULLUP  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: VALUE=300 MNTYMXDLY=0 IO_LEVEL=0 
*
* USAGE:To create a 200 ohm pullup on node 123:
*       Xnnn 123 PULLUP params: VALUE=200
*
* NOTE: The MNTYMXDLY and IO_LEVEL parameters are included to
*       be consistant with the rest of the digital library.  They
*       are not used, since there is no delay, and the DtoA model
*       is exact.

U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP IO_LEVEL=1 
.model  IO_PULLUP uio (
+	DRVH={VALUE}	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)
.ends

.subckt PULLUP_DTOA  D A  DPWR DGND
+	params: DRVL=0 DRVH=0 CAPACITANCE=0
R1 A DPWR {DRVH}
.ends

*$
*-------------------------------------------------
* Pullup Resistor: 50 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_50  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
* NOTE: The MNTYMXDLY and IO_LEVEL parameters are included to
*       be consistant with the rest of the digital library.  They
*       are not used, since there is no delay, and the DtoA model
*       is exact.

U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_50 IO_LEVEL=1 
.ends

.model IO_PULLUP_50 uio (
+	DRVH=50	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 75 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_75  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_75 IO_LEVEL=1 
.ends

.model IO_PULLUP_75 uio (
+	DRVH=75	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 100 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_100  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_100 IO_LEVEL=1 
.ends

.model IO_PULLUP_100 uio (
+	DRVH=100	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 150 ohm
*
* MicroSim 
* muw   12/06/89	Created

.subckt PULLUP_150  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_150 IO_LEVEL=1 
.ends

.model IO_PULLUP_150 uio (
+	DRVH=150	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 200 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_200  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_200 IO_LEVEL=1 
.ends

.model IO_PULLUP_200 uio (
+	DRVH=200	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 220 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_220  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_220 IO_LEVEL=1 
.ends

.model IO_PULLUP_220 uio (
+	DRVH=220	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 300 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_300  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_300 IO_LEVEL=1 
.ends

.model IO_PULLUP_300 uio (
+	DRVH=300	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 330 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_330  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_330 IO_LEVEL=1 
.ends

.model IO_PULLUP_330 uio (
+	DRVH=330	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 500 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_500  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_500 IO_LEVEL=1 
.ends

.model IO_PULLUP_500 uio (
+	DRVH=500	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)

*$
*-------------------------------------------------
* Pullup Resistor: 1k ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLUP_1k  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+	A 
+	IO_PULLUP_1k IO_LEVEL=1 
.ends

.model IO_PULLUP_1K uio (
+	DRVH=1k	DRVL=1MEG
+	DtoA1=PULLUP_DTOA
+	)


*******************************************************************************
* Pulldown Resistors
*******************************************************************************

*$
*-------------------------------------------------
* Pulldown Resistor: General, parameterized value
*
* MicroSim 
* muw   10/29/90        Created

.subckt PULLDOWN  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: VALUE=300 MNTYMXDLY=0 IO_LEVEL=0 
*
* USAGE:To create a 200 ohm pulldown on node 123:
*       Xnnn 123 PULLDOWN params: VALUE=200
*
* NOTE: The MNTYMXDLY and IO_LEVEL parameters are included to
*       be consistant with the rest of the digital library.  They
*       are not used, since there is no delay, and the DtoA model
*       is exact.

U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN IO_LEVEL=1 
.model  IO_PULLDOWN uio (
+	DRVL={VALUE}	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)
.ends

.subckt PULLDOWN_DTOA  D A  DPWR DGND
+	params: DRVL=0 DRVH=0 CAPACITANCE=0
R1 A DGND {DRVL}
.ends

*$
*-------------------------------------------------
* Pulldown Resistor: 50 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_50  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_50 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_50 uio (
+	DRVL=50	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 75 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_75  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_75 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_75 uio (
+	DRVL=75	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 100 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_100  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_100 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_100 uio (
+	DRVL=100	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 150 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_150  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_150 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_150 uio (
+	DRVL=150	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 200 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_200  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_200 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_200 uio (
+	DRVL=200	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 220 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_220  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_220 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_220 uio (
+	DRVL=220	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 300 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_300  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_300 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_300 uio (
+	DRVL=300	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 330 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_330  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_330 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_330 uio (
+	DRVL=330	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 500 ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_500  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_500 IO_LEVEL=1 
.ends

.model IO_PULLDOWN_500 uio (
+	DRVL=500	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*-------------------------------------------------
* Pulldown Resistor: 1k ohm
*
* MicroSim 
* muw   12/06/89	Created
* muw   10/29/90        Use DRVH/DRVL parameters in DtoA/AtoD subcircuit call

.subckt PULLDOWN_1k  A 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: MNTYMXDLY=0 IO_LEVEL=0 
U1 pulldn(1) DPWR DGND
+	A 
+	IO_PULLDOWN_1k IO_LEVEL=1 
.ends

.model IO_PULLDOWN_1K uio (
+	DRVL=1k	DRVH=1MEG
+	DtoA1=PULLDOWN_DTOA
+	)

*$
*******************************************************************************
* Delay Line
*******************************************************************************
* Delay Line: Parameterized delay
*
* MicroSim
* muw   12/06/89        Created
*
*   Note from MicroSim:  This model is not supported by the Basics+ package.
*   ~~~~~~~~~~~~~~~~~~
* This subcircuit is parameterized: the length of the delay
* is set by the DELAY parameter, and the tolerance is set by 
* the TOL parameter. The delay is in seconds, the tolerance 
* is in percent.  The default is a 50nS delay line with a 10%
* tolerance.
*
* Example:
*
* Xnnn inpin outpin DELAY PARAMS: DELAY=20nS TOL=5
*
* This creates a delay line from "inpin" to "outpin"
* which has a 20ns typical delay, and a 5% tolerance.
* (The min delay will be 19ns, the max will be 21ns.)

.subckt DELAY  IN OUT 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: DELAY=50NS TOL=10 MNTYMXDLY=0 IO_LEVEL=0 
U1 dlyline DPWR DGND
+	IN   OUT 
+	DLYMODEL IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL} 
.model DLYMODEL udly (
+	DLYMN={DELAY - (DELAY*(TOL/100))}
+	DLYTY={DELAY}
+	DLYMX={DELAY + (DELAY*(TOL/100))}
+	)
.ends


*******************************************************************************
* Digital Capacitive Load
*******************************************************************************

*$
*-------------------------------------------------
* Digital Capacitive Load
*
* MicroSim
* muw   04/10/91        Created
*
* This parameterized subcircuit creates a digital capacitive load
* for load dependent delay calculations.  It does not cause the node
* to which it is attached to be converted to an analog node, as it 
* would be if an analog capacitor was attached to the node.
*
* Example:
*
* Xnnn node DIGCAP PARAMS: CAP = 25pF
*
* This creates a digital capacitive load of 25pF from digital ground
* to "node".

.subckt DIGCAP  IN 
+	optional: DPWR=$G_DPWR DGND=$G_DGND
+	params: CAP=10Pf MNTYMXDLY=0 IO_LEVEL=0 
U1 pullup(1) DPWR DGND
+       IN
+	IO_DIGCAP MNTYMXDLY={MNTYMXDLY} IO_LEVEL=1 
.model IO_DIGCAP uio (
+	DRVH = 100MEG  DRVL = 100MEG
+       DtoA1 = DIGCAP_DtoA
+	OUTLD = {CAP}
+	)
.ends

* Digital Capacitor DtoA Subcircuit

.subckt DIGCAP_DtoA  D A  DPWR DGND
+	params: DRVL=0 DRVH=0 CAPACITANCE=0
*
C1  A DGND {CAPACITANCE}
.ends
*$

